US05364849
(a) α-{[1-(4-Phenylpiperazinyl)]methyl}benzeneacetic acid
1-Phenylpiperazine and atropic acid in ethanol is heated under reflux for 18h, cooled to room temperature, and evaporated in vacuo. The solid is triturated with acetone to give the title product.

reactant | 1-Phenylpiperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | atropic acid | C(C(=C)C1=CC=CC=C1)(=O)O | C9H8O2
solvent | ethanol | C(C)O | C2H6O
product | α-{[1-(4-Phenylpiperazinyl)]methyl}benzeneacetic acid | C1(=CC=CC=C1)N1CCN(CC1)CC(C(=O)O)C1=CC=CC=C1 | C19H22N2O2
